US06747048B2
Compound 14d: 3,5-Dichloro-2-fluoro-4-(3-bromo-4-methoxy-phenoxy)-6-methoxycarbonylmethylaminopyridine
To a solution of 3,5-dichloro-2,6-difluoro-4-(3-bromo-4-methoxyphenoxy)pyridine (250 mg) and glycine methyl ester hydrochloric acid (150 mg) in DMF (2.0 mL) was added potassium carbonate powder (250 mg) in one portion. The resulting mixture was stirred at ambient temperature for 20 hours. The reaction mixture was diluted with brine and extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (50 mL×3), dried (Na2SO4) and concentrated. Chromatography with ethyl acetate-hexanes (0-50% gradient elution) provided the title compound as a white solid (253 mg).

reactant | 3,5-dichloro-2,6-difluoro-4-(3-bromo-4-methoxyphenoxy)pyridine | 250 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)Br)Cl)F)F | C12H6BrCl2F2NO2
reactant | glycine methyl ester hydrochloric acid | 150 mg | Cl.COC(CN)=O
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3,5-Dichloro-2-fluoro-4-(3-bromo-4-methoxy-phenoxy)-6-methoxycarbonylmethylaminopyridine | 253 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)Br)Cl)NCC(=O)OC)F | C15H12BrCl2FN2O4
